US04634704
A mixture of 4 parts of 2-chloro-1-[(4-fluorophenyl)methyl]-1H-benzimidazole, 6.1 parts of N-[1-[(4-fluorophenyl)methyl]-1H-benzimidazol-2-yl]-[1,4'-bipiperidine]-4-amine and 1 part of potassium iodide was stirred and heated for 3 hours at 130° C. The reaction mixture was cooled and taken up in water and trichloromethane. The whole was alkalized with potassium carbonate. The organic phase was separated, dried, filtered and evaporated. The residue was purified by HPLC using a mixture of trichloromethane and methanol (98:2 by volume), saturated with ammonia, as eluent. The pure fractions were collected and the eluent was evaporated. The residue was crystallized from acetonitrile, yielding 1.6 parts of 1-[(4-fluorophenyl)methyl]-N-[1'-[1-[(4-fluorophenyl)methyl]-1H-benzimidazol-2-yl]-[1,4'-bipiperidin]-4-yl]-1H-benzimidazol-2-amine monohydrate; mp. 130.2° C. (compound 65).

reactant | 2-chloro-1-[(4-fluorophenyl)methyl]-1H-benzimidazole | ClC1=NC2=C(N1CC1=CC=C(C=C1)F)C=CC=C2 | C14H10ClFN2
reactant | N-[1-[(4-fluorophenyl)methyl]-1H-benzimidazol-2-yl]-[1,4'-bipiperidine]-4-amine | FC1=CC=C(C=C1)CN1C(=NC2=C1C=CC=C2)NC2CCN(CC2)C2CCNCC2 | C24H30FN5
reactant | potassium iodide | [I-].[K+]
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | water | O | H2O
solvent | trichloromethane | ClC(Cl)Cl | CHCl3
product | 1-[(4-fluorophenyl)methyl]-N-[1'-[1-[(4-fluorophenyl)methyl]-1H-benzimidazol-2-yl]-[1,4'-bipiperidin]-4-yl]-1H-benzimidazol-2-amine monohydrate | O.FC1=CC=C(C=C1)CN1C(=NC2=C1C=CC=C2)NC2CCN(CC2)C2CCN(CC2)C2=NC1=C(N2CC2=CC=C(C=C2)F)C=CC=C1 | InChI=1S/C38H39F2N7.H2O/c39-29-13-9-27(10-14-29)25-46-35-7-3-1-5-33(35)42-37(46)41-31-17-21-44(22-18-31)32-19-23-45(24-20-32)38-43-34-6-2-4-8-36(34)47(38)26-28-11-15-30(40)16-12-28;/h1-16,31-32H,17-26H2,(H,41,42);1H2
